US09035073B2
(+)-3-(3-chloro-5-fluorophenyl)-3-methoxypyrrolidine
Preparation according to Example 1: (+)-1-benzyl-3-(3-chloro-5-fluorophenyl)-3-methoxypyrrolidine (0.212 g, 0.66 mmol), 1,2-dichloroethane (20 ml), 1-chloroethyl chloroformate (0.38 g, 2.65 mmol). Purification by HPLC on waters OBD C18, 5 μm (MeOH/33 mM NH3, 20:80 to 50:50) gave the title compound 0.042 g (27%). [a]D=+2.7° (methanol). MS m/z (relative intensity, 70 eV) 229 (M+, 1), 214 (58), 199 (bp), 187 (75), 157 (37).

reactant | (+)-1-benzyl-3-(3-chloro-5-fluorophenyl)-3-methoxypyrrolidine | 0.66 mmol, 0.212 g | C(C1=CC=CC=C1)N1CC(CC1)(OC)C1=CC(=CC(=C1)F)Cl | C18H19ClFNO
reactant | 1-chloroethyl chloroformate | 2.65 mmol, 0.38 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | (+)-3-(3-chloro-5-fluorophenyl)-3-methoxypyrrolidine | 0.042 g, 27% | ClC=1C=C(C=C(C1)F)C1(CNCC1)OC | C11H13ClFNO
